US04362666
The mixture of 170 mg of phosphorus oxychloride and 100 ml of dimethylformamide is stirred at room temperature for 30 minutes, whereupon the solution of 281 mg of 2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine in 5 ml of methylene chloride is added dropwise. After 30 minutes, the mixture is refluxed for another 30 minutes and cooled to room temperature. It is combined with 1.5 g of sodium acetate in 5 ml of water, stirred for 30 minutes and the organic layer separated. It is washed with water, 5% aqueous sodium bicarbonate, dried, evaporated and the residue triturated with diethyl ether, to yield the 12-formyl-2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine melting at 300°-302°.

reactant | phosphorus oxychloride | 170 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | 2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | 281 mg | CN1CC2N(C3=C(CN4C2=CC=C4)C=CC=C3)C(C1=O)=O | C16H15N3O2
reactant | sodium acetate | 1.5 g | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | 12-formyl-2-methyl-3,4-dioxo-1,3,4,14b-tetrahydro-10H-pyrazino[1,2-a]pyrrolo[2,1-c][1,4]benzodiazepine | C(=O)C1=CC=C2C3N(C4=C(CN21)C=CC=C4)C(C(N(C3)C)=O)=O | C17H15N3O3
